US07479488B2
1d ethyl (R)-3-(3,4-dibromo-phenyl)-2-hydroxy-propionate
0.8 mL (10.9 mmol) thionyl chloride were added dropwise to a solution of 3.2 g (9.9 mmol) of (R)-3-(3,4-dibromo-phenyl)-2-hydroxy-propionic acid in 40 mL dry EtOH cooled to 0° C. and the reaction mixture was stirred for 1 h at RT. The reaction solution was evaporated down i.vac., the residue combined with 30 mL DCM and filtered to remove the insoluble precipitate. After the solvent had been eliminated the product was obtained as a viscous oil, which was further reacted without purification.

reactant | thionyl chloride | 10.9 mmol, 0.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (R)-3-(3,4-dibromo-phenyl)-2-hydroxy-propionic acid | 9.9 mmol, 3.2 g | BrC=1C=C(C=CC1Br)C[C@H](C(=O)O)O | C9H8Br2O3
reactant | EtOH | 40 mL | CCO | C2H6O
product | ethyl (R)-3-(3,4-dibromo-phenyl)-2-hydroxy-propionate | BrC=1C=C(C=CC1Br)C[C@H](C(=O)OCC)O | C11H12Br2O3
